US07338973B2
8-methoxy-11-methyl-6,11-dihydro-5-thia-4,11-diaza-benzo[a]fluorene
NaH (60%, 41 mg, 1.03 mmoL) was added into 8-methoxy-6,11-dihydro-5-thia-4,11-diaza-benzo[a]fluorene (250 mg, 0.933 mmoL) in DMF (3 mL) at 0° C. After 10 minutes, MeI (0.064 mL, 0.93 mmoL) was added dropwise into the reaction at 0° C. The reaction mixture was slowly warmed to room temperature over 2 hours. The reaction mixture was then partitioned between EtOAc and saturated NH4Cl. The aqueous phase was extracted two times with EtOAc. The organic layer from each extraction was combined, washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The crude material (the oil) was then purified by column chromatography (silica gel, hexanes:EtOAc 1:1 as eluent) to yield the title compound as a white solid.

reactant | NaH | 41 mg | [H-].[Na+]
reactant | 8-methoxy-6,11-dihydro-5-thia-4,11-diaza-benzo[a]fluorene | 250 mg | COC=1C=C2C=3CSC4=C(C3NC2=CC1)C=CC=N4 | C15H12N2OS
reactant | MeI | 0.064 mL | CI | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 8-methoxy-11-methyl-6,11-dihydro-5-thia-4,11-diaza-benzo[a]fluorene | COC=1C=C2C=3CSC4=C(C3N(C2=CC1)C)C=CC=N4 | C16H14N2OS
